US05478939
(S,S)-2-Methyl-5-(2-pyrazinyl)-2,5-diazabicyclo[2.2.1]heptane
A solution of 2.1 g of (S,S)-2-methyl-2,5-diazabicyclo[2.2.1]heptane prepared by the procedure of U. Jordis et al, Synthesis, 1990, 925, and 1.8 ml of 2-chloropyrazine in 8 ml of diazabicyclo[3.6.0]undecene-5 is heated to approximately 80° C. for 2 hours. The reaction solution is cooled, diluted with 100 ml of methylene chloride and washed with 30 ml of 5N aqueous sodium hydroxide. The organic layer is dried and concentrated in vacuo to dryness. The residue is purified by chromatography (aluminum oxide, Activity Grade 2.5; methylene chloride to 5% methyl alcohol/methylene chloride) to give 2.1 g of the desired product as a pale yellow oil:

reactant | (S,S)-2-methyl-2,5-diazabicyclo[2.2.1]heptane | 2.1 g | CN1[C@@H]2CN[C@H](C1)C2 | C6H12N2
reactant | 2-chloropyrazine | 1.8 ml | ClC1=NC=CN=C1 | C4H3ClN2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (S,S)-2-Methyl-5-(2-pyrazinyl)-2,5-diazabicyclo[2.2.1]heptane | 2.1 g | CN1[C@@H]2CN([C@H](C1)C2)C2=NC=CN=C2 | C10H14N4
